US04958019
Synthesis of 7-amino-3-[(2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylic acid
In 600 ml of acetonitrile were suspended 30.1 g of 7-mer- capto-2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidine and 38.9 g of 7-aminocephalosporanic acid and 68.7 ml of boron trifluoride - ethyl ether complex was added thereto, and the mixture was stirred at room temperature for 6 hours. One liter of water was added to the reaction mixture and the mixture was adjusted to pH 2 with addition of a conc. aqueous ammonia. The precipitated crystals were collected by filtration, washed with water and with acetone, and then dried to obtain 30 g of the title compound.

reactant | 7-mer- capto-2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidine | 30.1 g | SC1=CC(=NC=2N1N=C(N2)COC)C | C8H10N4OS
reactant | 7-aminocephalosporanic acid | 38.9 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | water | One liter | O | H2O
reactant | ammonia | N | H3N
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
product | 7-amino-3-[(2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylic acid | 30 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)COC)C)C(=O)O)C1=O | C16H18N6O4S2
